US06362178B1
2-[2-Ethoxy-5-(4-(5-methyl-4-furoxanecarbonyl)-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one
410 mg (1.0 mmol) of 4-ethoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride are dissolved in 10 ml of dichloromethane and cooled to 0° C. 590 mg (2.00 mmol) of 1-(5-methyl-4-furoxanecarbonyl)-piperazine trifluoroacetate and 400 mg of triethylamine are added, and the reaction mixture is stirred at room temperature overnight. The mixture is diluted with dichloromethane, the organic phase is washed with ammonium chloride solution, 1M hydrochloric acid and water and dried over sodium sulphate and the solvent is removed under reduced pressure. Crystallization from ether gives 448 mg (74%) of a colourless solid.

reactant | 4-ethoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 1.0 mmol, 410 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C17H19ClN4O4S
reactant | 1-(5-methyl-4-furoxanecarbonyl)-piperazine trifluoroacetate | 2.00 mmol, 590 mg | FC(C(=O)O)(F)F.CN1C(=C[NH+](O1)[O-])C(=O)N1CCNCC1
reactant | triethylamine | 400 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[2-Ethoxy-5-(4-(5-methyl-4-furoxanecarbonyl)-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 448 mg, 74% | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1=C[NH+](ON1C)[O-])C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C25H32N8O7S
